US04596816
2N Sodium hydroxide (40 ml) was added to a solution of 5-(2-formyloxyethyl)-4-phenyloxazole (12.9 g) in ethanol (40 ml). The mixture was stirred for 30 minutes, then diluted with water (80 ml) and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off to give 10.0 g (97.3%) of 5-(2-hydroxyethyl)-4-phenyloxazole as an oil.

reactant | Sodium hydroxide | 2N, 40 ml | [OH-].[Na+]
reactant | 5-(2-formyloxyethyl)-4-phenyloxazole | 12.9 g | C(=O)OCCC1=C(N=CO1)C1=CC=CC=C1 | C12H11NO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
product | 5-(2-hydroxyethyl)-4-phenyloxazole | 10.0 g, 97.3% | OCCC1=C(N=CO1)C1=CC=CC=C1 | C11H11NO2
